datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2:10])N1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2+:10][H:20])N1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCN(CC)[N+:21](=C(C)N)[H:20].O=C([O-])CCCC[NH2:10]>>CCN(CC)[N:21]=C(C)N.O=C([O-])CCCC[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)c1cccc([NH2+:21][H:20])c1.CO[NH2:10]>>COC(=O)c1cccc([NH2:21])c1.CO[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc([O-])[n+](C)c([O-])[n:10]1.O=C(O)c1ccc[o+:21]1[H:20]>>Cc1cc([O-])[n+](C)c([O-])[n+:10]1[H:20].O=C(O)c1ccc[o:21]1 10=20;20,21=21",
"CCCNCC[NH:10]CCC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCNCC[NH+:10](CCC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1c(O)cccc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1c(O)cccc1C[NH2+:10][H:20] 10=20;20,21=21",
"Cn1cncc1CC(NC(=O)CC[NH2:10])C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cn1cncc1CC(NC(=O)CC[NH2+:10][H:20])C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCn1c[n:10]c2ccccc21.[O-][n+]1c2ccccc2[n+]([O:21][H:20])c2ccccc21>>CCCn1c[n+:10]([H:20])c2ccccc21.[O-][n+]1c2ccccc2[n+]([O-:21])c2ccccc21 10=20;20,21=21",
"C[NH2+]CC[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+]CC[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CCCCC1=[N+:21](CC(=O)[O-])[H:20].C[n+]1c([O-])c([O-])[n:10]c2ccccc21>>CC1CCCCC1=[N:21]CC(=O)[O-].C[n+]1c([O-])c([O-])[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].Cc1cccc(C)c1/C(c1ccccc1)=[NH+:21]/[H:20]>>C[NH+:10](CCCC(=O)[O-])[H:20].Cc1cccc(C)c1C(c1ccccc1)=[NH:21] 10=20;20,21=21",
"CN(CCC[N:10](C)C)C(=O)/C=N/[O-].O=C([O-])C1CCCC[NH+:21]1[H:20]>>CN(CCC[N+:10](C)(C)[H:20])C(=O)/C=N/[O-].O=C([O-])C1CCCC[NH:21]1 10=20;20,21=21",
"CC(=O)N1CCc2noc([O-:10])c2CC1.c1cc2c(c([O:21][H:20])c1)CCC2>>CC(=O)N1CCc2noc([O:10][H:20])c2CC1.c1cc2c(c([O-:21])c1)CCC2 10=20;20,21=21",
"CC[As](CC)(CC)=[O:10].O=C(O)c1cc(O)c(O)c(C(=O)[O:21][H:20])[o+]1>>CC[As](CC)(CC)=[O+:10][H:20].O=C(O)c1cc(O)c(O)c(C(=O)[O-:21])[o+]1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Clc1ccc(/C=C/c2n[n+:21]([H:20])nn2-c2ccccc2)cc1.[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCCCC1>>Clc1ccc(/C=C/c2n[n:21]nn2-c2ccccc2)cc1.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"CSCc1cccc[n+:21]1[H:20].Cc1cc([O-])[n:10]c([O-])[n+]1C>>CSCc1cccc[n:21]1.Cc1cc([O-])[n+:10]([H:20])c([O-])[n+]1C 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2:10].c1cc[n+:21]([H:20])c(-c2ccoc2)c1>>CC(Cc1ccc2c(c1)OCO2)[NH2+:10][H:20].c1cc[n:21]c(-c2ccoc2)c1 10=20;20,21=21",
"CCC1C[NH:10]1.O=C(/C=C/C(=O)[O:21][H:20])c1ccccc1>>CCC1C[NH+:10]1[H:20].O=C(/C=C/C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH:10].Cn1cc([NH3+])cc1C(=O)[O:21][H:20]>>Cc1[nH]cnc1CSCCNC(NCCCc1c[nH]cn1)=[NH+:10][H:20].Cn1cc([NH3+])cc1C(=O)[O-:21] 10=20;20,21=21",
"Fc1cc2c(cc1Cl)[nH]c[n+:21]2[H:20].[NH3+]CC(O)C[NH2:10]>>Fc1cc2c(cc1Cl)[nH]c[n:21]2.[NH3+]CC(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)([Se-])C[NH2+:21][H:20].C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:10]1)C(=O)[O-]>>CC(C)([Se-])C[NH2:21].C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"C[NH+](C)CCc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)CCc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#CCCN[NH2+:21][H:20].N#C[C@H]1CCCC[C@@H]1C(=O)[O-:10]>>N#CCCN[NH2:21].N#C[C@H]1CCCC[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C[NH3+])C[NH2:10].N#CC(C#N)=C(C#N)[N:21](c1ccc(Br)cc1)[H:20]>>CC(C)(C[NH3+])C[NH2+:10][H:20].N#CC(C#N)=C(C#N)[N-:21]c1ccc(Br)cc1 10=20;20,21=21",
"CCC[NH2+]C(C)C(=O)[O:21][H:20].c1cnc2c([O-:10])[nH+]ccc2c1>>CCC[NH2+]C(C)C(=O)[O-:21].c1cnc2c([O:10][H:20])[nH+]ccc2c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CC[NH2+:10][H:20] 10=20;20,21=21",
"CCc1cccc[n:10]1.O=[N+]([O-])c1ccc(/C=N/c2nccc[n+:21]2[H:20])cc1>>CCc1cccc[n+:10]1[H:20].O=[N+]([O-])c1ccc(/C=N/c2nccc[n:21]2)cc1 10=20;20,21=21",
"CC(=O)c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1.O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O-:10]>>CC(=O)c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1.O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O:10][H:20] 10=20;20,21=21",
"COc1ccc2c(c1)[NH+:21]([H:20])CC[NH2+]2.c1ccc(CCCC[NH2:10])cc1>>COc1ccc2c(c1)[NH:21]CC[NH2+]2.c1ccc(CCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCC[N+:21](CCCl)(CCCl)[H:20].Cc1cc(Br)cc(C)c1[NH2:10]>>CCCC[N:21](CCCl)CCCl.Cc1cc(Br)cc(C)c1[NH2+:10][H:20] 10=20;20,21=21",
